US20010046993A1
A. 2-[4-(4-Benzyl-1-piperazinyl)cyclohexyl]-1H-isoindole-1,3(2H)-dione
To a solution of 2-(4-oxocyclohexyl)-1H-isoindole-1,3(2H)dione (3.78 g, 15.5 mmol), which was prepared according to the literature (J. Med. Chem., 1993, 1918), 1-benzylpiperazine (2.99 g/17.1 mmol) and AcOH (1.00 ml/17.1 mmol) in dichloroethane (50 ml) was added sodium triacetoxyborohydride (6.57 g/31.0 mmol) and the mixture was stirred for 2 days. The reaction mixture was poured into water (50 ml) and the mixture was extracted with dichloromethane (100 ml). The extract was washed with brine (50 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (NH2 gel/dichloromethane) to give a colorless oil (5.00 g/89%).

reactant | 2-(4-oxocyclohexyl)-1H-isoindole-1,3(2H)dione | 15.5 mmol, 3.78 g | O=C1CCC(CC1)N1C(C2=CC=CC=C2C1=O)=O | C14H13NO3
reactant | 1-benzylpiperazine | 17.1 mmol, 2.99 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | AcOH | 17.1 mmol, 1.00 ml | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 31.0 mmol, 6.57 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 50 ml | O | H2O
product | 2-[4-(4-Benzyl-1-piperazinyl)cyclohexyl]-1H-isoindole-1,3(2H)-dione | C(C1=CC=CC=C1)N1CCN(CC1)C1CCC(CC1)N1C(C2=CC=CC=C2C1=O)=O | C25H29N3O2
